US04826991
DETA (0.1 mole; 10.3 g), 0.1 mole (10.3 g) of benzonitrile and 0.2 g (2% by weight based on DETA) of sulfur were heated as in Example 2. In 2.5 hours, evolution of ammonia gas ceased, and the inside temperature finally reached 180° C. Then, 0.8 g (2 moles per mole of sulfur) of zinc dust was added to the reaction mixture, and the mixture was heated at an inside temperature of 150° C. for 2 hours. After the reaction mixture was allowed to cool, it was extracted with methanol. The extract was distilled under reduced pressure to give 0.078 mole (14.7 g; yield 78 mole %) of a crude 1-aminoethyl-2-phenylimidazoline fraction having a bp20 of 200°-204° C.

reactant | DETA | 0.1 mole, 10.3 g | CCN(CC)C(=O)C1=CC(=CC=C1)C | C12H17NO
reactant | benzonitrile | 0.1 mole, 10.3 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | ammonia | N | H3N
catalyst | zinc | 0.8 g | [Zn] | Zn
product | 1-aminoethyl-2-phenylimidazoline | 0.078 mole, 14.7 g | NC(C)N1C(=NCC1)C1=CC=CC=C1 | C11H15N3
